US04876370
Anhydrous ethyl ether (11 cc) and 1-bromo-2-methyl-4-trimethylsilyloxy-1,3-butadiene (0.9 g) are introduced under an argon atmosphere into a 50-cc round-bottomed flask. This is cooled to -70° C. and then a solution (3.25 cc) of 1.65M tert-butyllithium in pentane is added over 10 minutes. The mixture is stirred at -70° C. for 100 minutes and 3,3-ethylenedioxybutanal (0.4 g) is then added in solution in anhydrous ethyl ether (4 cc). The temperature is allowed to rise to -30° C. and stirring is performed for 30 minutes. Further stirring is performed for 20 minutes at -20° C. and then the mixture is cooled to -60° C. N Hydrochloric acid (11.5 cc) is added over 20 minutes. The temperature is allowed to rise to about 20° C. After the reaction mixture has been taken up with ether and water and the organic phases have been dried over magnesium sulphate, and after flash chromatography, 7,7-ethylenedioxy-3-methyl-2,4-octadienal (0.33 g) is obtained, its characteristics being as follows:

reactant | 1-bromo-2-methyl-4-trimethylsilyloxy-1,3-butadiene | 0.9 g | BrC=C(C=CO[Si](C)(C)C)C | C8H15BrOSi
reactant | tert-butyllithium | 1.65M, 3.25 cc | C(C)(C)(C)[Li]
reactant | 3,3-ethylenedioxybutanal | 0.4 g | C1OC(CC=O)(C)OC1 | C6H10O3
reactant | Hydrochloric acid | 11.5 cc | Cl | ClH
solvent | pentane | CCCCC | C5H12
solvent | ethyl ether | 4 cc | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
solvent | ethyl ether | 11 cc | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 7,7-ethylenedioxy-3-methyl-2,4-octadienal | 0.33 g, yield is 55% | C1OC(CC=CC(=CC=O)C)(C)OC1 | C11H16O3
